US05614520
1.83 g of 4-Chloro-3-nitrobenzonitrile and 1.06 g of neopentyl alcohol were dissolved in 10 ml of N,N-dimethylformamide. The solution was cooled to 0° C., and 480 mg of sodium hydride (60% in oil) was gradually added thereto. Then, 30 min after the addition, 13 ml of 1N hydrochloric acid was added to the mixture, and the precipitated crystal was collected by filtration to give 2.12 g of 4-neopentyloxy-3-nitrobenzonitrile. 1.2 g of thioacetamide was added thereto, and the mixture was heated at 80° C. for an hour in N,N-dimethylformamide saturated with hydrochloric acid. After the completion of the reaction, the reaction mixture was neutralized with 30 ml of water and 18 ml of 2N sodium hydroxide, and the lower layer was separated and dried. The lower layer was dissolved in 30 ml of ethanol, 2.11 g of ethyl 2-chloroacetoacetate was added thereto, and the mixture was heated under reflux for 5 hours. After the reaction mixture was cooled, the precipitated crystal was collected by filtration and recrystallized from ethanol to give 2.38 g of ethyl 4-methyl-2-(4-neopentyloxy-3-nitrophenyl)-5-thiazolecarboxylate (yield: 63%). This product was hydrolyzed by a conventional process, and the resulting crystal was recrystallized from a 80% aqueous ethanol solution to give 1.98 g of 2-(4-neopentyloxy-3-nitrophenyl)-4-methyl-5-thiazolecarboxylic acid (yield:

reactant | 4-Chloro-3-nitrobenzonitrile | 1.83 g | ClC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | neopentyl alcohol | 1.06 g | C(C(C)(C)C)O | C5H12O
reactant | sodium hydride | 480 mg | [H-].[Na+]
reactant | hydrochloric acid | 1N, 13 ml | Cl | ClH
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-neopentyloxy-3-nitrobenzonitrile | 2.12 g | C(C(C)(C)C)OC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C12H14N2O3
